US08030497B2
c) 1-[2-(4-Isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-ethanone
To a solution of 0.17 ml oxalylchloride in 4 ml dichloromethane, 0.285 ml DMSO (in 0.8 ml dichloromethane is slowly added at −60° C. This mixture is stirred under argon at −60° C. for 0.5 h. Then 180 mg (0.488 mmol) 1-[2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-ethanol (in 2 ml dichloromethane) are added and stirring is continued at −60° C. for 1 h. 1 ml triethylamine is added and the reaction mixture is allowed to warm to room temperature, poured on water and extracted (3×) with dichloromethane. The combined organic layers are washed with water (2×) and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=3:1) to afford 163 mg of the title compound as a colorless oil.

reactant | oxalylchloride | 0.17 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-[2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-ethanol | 0.488 mmol, 2 ml, 180 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)C(C)O)OC | C22H28N2O3
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | DMSO | 0.285 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
product | 1-[2-(4-Isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-ethanone | 163 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)C(C)=O)OC | C22H26N2O3
